US07569578B2
4-tert-Butyl 1-methyl 2-((7-methyl-1H-indazol-5-yl)methyl)succinate
To a solution of 4-methoxy-3-((7-methyl-1H-indazol-5-yl)methyl)-4-oxobutanoic acid (0.9764 g, 3.54 mmol) and t-butyl-2,2,2-trichloroacetoimidate (3.78 mL, 21.22 mmol) in tetrahydrofuran (25 mL) was added 1M boron trifluoride etherate (0.2 mL) at room temperature. Heat generation was observed and the reaction was stirred for 3.5 h before passing it through a pad of silica gel. Evaporation of the filtrate gave a white solid. Methylene chloride (20 mL) was added and the resulting white solid was removed by filtration. The filtrate was concentrated and the final product was obtained via silica gel chromatography eluting with 0% to 50% ethyl acetate/hexane. (0.605 g, 52%) HPLC tR=1.51 min, MS(ESI)[M+H]+=332.77.

reactant | 4-methoxy-3-((7-methyl-1H-indazol-5-yl)methyl)-4-oxobutanoic acid | 3.54 mmol, 0.9764 g | COC(C(CC(=O)O)CC=1C=C2C=NNC2=C(C1)C)=O | C14H16N2O4
reactant | t-butyl-2,2,2-trichloroacetoimidate | 21.22 mmol, 3.78 mL | C(C)(C)(C)OC(C(Cl)(Cl)Cl)=N | C6H10Cl3NO
reactant | boron trifluoride etherate | 1M, 0.2 mL | B(F)(F)F.CCOCC
reactant | Methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4-tert-Butyl 1-methyl 2-((7-methyl-1H-indazol-5-yl)methyl)succinate | CC=1C=C(C=C2C=NNC12)CC(C(=O)OC)CC(=O)OC(C)(C)C | C18H24N2O4
